US08470820B2
Step 2: 5-Bromo-2-hydroxymethyl-pyridine-1-oxide
5-Bromo-pyridin-2-yl-methanol (6.0 g, 31.9 mmol) was dissolved in methylenechloride (80 ml) and cooled to 0° C. A solution of 3-chloroperbenzoic acid (8.26 g, 47.9 mmol) in methylenechloride (20 ml) was slowly added, the ice bath was removed after completion of the addition, and the reaction mixture was stirred at ambient temperature for 1 h. The solvent was removed and the crude product was purified by silica gel chromatography using ethyl acetate to yield 3.68 g (56%) of the title compound.

reactant | 5-Bromo-pyridin-2-yl-methanol | 31.9 mmol, 6.0 g | BrC=1C=CC(=NC1)CO | C6H6BrNO
reactant | 3-chloroperbenzoic acid | 47.9 mmol, 8.26 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylenechloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | methylenechloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-Bromo-2-hydroxymethyl-pyridine-1-oxide | 3.68 g, 56% | BrC=1C=CC(=[N+](C1)[O-])CO | C6H6BrNO2
